US07977331B1
To a solution of 2-[2-(2-bromo-6-nitrophenoxy)ethoxy]tetrahydropyran (12.30 g, 35.6 mmol) in 1,2-dimethoxyethane (150 ml) and water (75 ml) was added sodium hydrogen carbonate (9.74 g, 117.0 mmol) and tetrakis(triphenylphosphine)palladium (4.52 g, 3.91 mmol) and the mixture was heated at 85° C. for 15 min. Methyl 3-cyclohexyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-6-carboxylate (16.40 g, 35.6 mmol) was added in 6 divided portions to the reaction mixture at 30 min intervals, and the mixture was stirred at the same temperature for 1 hr. The reaction mixture was allowed to cool to room temperature, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was successively washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (hexane:ethyl acetate=3.5:1) to give methyl 3-cyclohexyl-2-{3-nitro-2-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}-1H-indole-6-carboxylate (14.40 g, yield 77%).

reactant | 2-[2-(2-bromo-6-nitrophenoxy)ethoxy]tetrahydropyran | 35.6 mmol, 12.30 g | BrC1=C(OCCOC2OCCCC2)C(=CC=C1)[N+](=O)[O-] | C13H16BrNO5
reactant | sodium hydrogen carbonate | 117.0 mmol, 9.74 g | C(O)([O-])=O.[Na+]
reactant | Methyl 3-cyclohexyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-6-carboxylate | 35.6 mmol, 16.40 g | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)B1OC(C(O1)(C)C)(C)C | C22H30BNO4
solvent | 1,2-dimethoxyethane | 150 ml | COCCOC | C4H10O2
solvent | water | 75 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 3.91 mmol, 4.52 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-cyclohexyl-2-{3-nitro-2-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}-1H-indole-6-carboxylate | 14.40 g, yield 77% | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C(=CC=C1)[N+](=O)[O-])OCCOC1OCCCC1 | C29H34N2O7
